US04053471
N-[[2-[3-(Dimethylamino)propoxy]phenyl]methylene]-butanamine (5.2 g) is reacted with 4.2 g of methyl thioglycolate following the procedure described in Example 1, part B, to yield 6.5 of 3-butyl-2-[2-[3-(dimethylamino)propoxy]phenyl]-4-thiazolidinone as an oil.

reactant | N-[[2-[3-(Dimethylamino)propoxy]phenyl]methylene]-butanamine | 5.2 g | CN(CCCOC1=C(C=CC=C1)C=NCCCC)C | C16H26N2O
reactant | methyl thioglycolate | 4.2 g | C(CS)(=O)OC | C3H6O2S
product | 3-butyl-2-[2-[3-(dimethylamino)propoxy]phenyl]-4-thiazolidinone | C(CCC)N1C(SCC1=O)C1=C(C=CC=C1)OCCCN(C)C | C18H28N2O2S
